US04954498
2,8,8-Trimethyl-5,6,7,8-tetrahydro-lH-imidazo-[4,5-g]quinolin-6-one
3.1 g. 6,7-diamino-4,4-dimethyl-1,2,3,4-tetrahydro- quinolin-2-one and 2.8 ml. acetic anhydride were stirred in 50 ml. ethanol for 30 minutes at ambient temperature. 20 ml. concentrated hydrochloric acid were then added thereto and the reaction mixture refluxed for 18 hours. The solvent was removed in a vacuum and the residue was dissolved in water, rendered alkaline with ammonia, filtered off with suction and washed with water. After recrystallisation from ethyl acetate, there were obtained 2.4 g. of the title compound; m.p. 290 294° C.

reactant | 6,7-diamino-4,4-dimethyl-1,2,3,4-tetrahydro- quinolin-2-one | NC=1C=C2C(CC(NC2=CC1N)=O)(C)C | C11H15N3O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2,8,8-Trimethyl-5,6,7,8-tetrahydro-lH-imidazo-[4,5-g]quinolin-6-one | CC1=NC=2C(=CC=3C(CC(NC3C2)=O)(C)C)N1 | C13H15N3O
